US07618960B2
Synthesis of 1-(2,6-difluoropyridin-3-yl)ethanol
Diisopropylamine (134 mL) was added dropwise to a mixed solution composed of a solution of n-butyl lithium in hexane (2.62 M, 368 mL) and tetrahydrofuran (800 mL) in a nitrogen atmosphere at −60° C. or less. The reaction solution was stirred for 30 minutes, and then a solution of 2,6-difluoropyridine (100 g) in tetrahydrofuran (100 mL) was added dropwise to the reaction solution at −60° C. or less. The reaction solution was stirred for one hour, and then acetaldehyde (97.6 mL) was added dropwise to the reaction solution. Then, 2 N aqueous hydrochloric acid (1,000 ml) was added dropwise to the reaction solution. Thereafter, ethyl acetate (1,000 mL) and toluene (1,000 mL) were added to the reaction solution, and the organic layer was separated. The organic layer was concentrated under reduced pressure to obtain 129 g of the title compound.

reactant | Diisopropylamine | 134 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | C(CCC)[Li]
reactant | 2,6-difluoropyridine | 100 g | FC1=NC(=CC=C1)F | C5H3F2N
reactant | acetaldehyde | 97.6 mL | C(C)=O | C2H4O
reactant | hydrochloric acid | 2 N, 1,000 ml | Cl | ClH
solvent | hexane | 2.62 M, 368 mL | CCCCCC | C6H14
solvent | tetrahydrofuran | 800 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | toluene | 1,000 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 1,000 mL | C(C)(=O)OCC | C4H8O2
product | 1-(2,6-difluoropyridin-3-yl)ethanol | 129 g | FC1=NC(=CC=C1C(C)O)F | C7H7F2NO
